US05301693
3-Hydroxy-2-methyl-2-propyl-4-phenylmethylenedecanoic acid
The reaction of 5.8 g (0.05 mole) 2-methylvaleric acid with 10.8 (0.05 mole) of α-hexylcinnamaldehyde was conducted in the manner described in Example III, Method B. The product was isolated as a viscous yellow oil. NMR spectra confirmed the title structure.

reactant | 2-methylvaleric acid | 0.05 mole, 5.8 g | CC(C(=O)O)CCC | C6H12O2
reactant | α-hexylcinnamaldehyde | C(CCCCC)C(C=O)=CC1=CC=CC=C1 | C15H20O
product | 3-Hydroxy-2-methyl-2-propyl-4-phenylmethylenedecanoic acid | OC(C(C(=O)O)(CCC)C)C(CCCCCC)=CC1=CC=CC=C1 | C21H32O3
